US07557213B2
Preparation of 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 161 mg (0.48 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2.5 mL THF and 2.4 mL 0.5M 3,4-(ethylenedioxy)phenylmagnesium bromide. Yield: 65 mg of a white solid. LC-MSD, m/z for C25H20N2O4 [M+H]+=413.1; HPLC retention time: 1.8 min.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.48 mmol, 161 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | 3,4-(ethylenedioxy)phenylmagnesium bromide | 0.5M, 2.4 mL | C1COC2=C[C-]=CC=C2O1.[Mg+2].[Br-]
product | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | O1CCOC2=C1C=CC(=C2)C(=O)C2=CN(C1=CC=CC=C1C2=O)CC2=NC(=CC=C2)C | C25H20N2O4
